US07888364B2
8 g of methyl 4-amino-2-chlorobenzoate was dissolved in 16 mL of MeOH, 8 mL of H2O and 8 mL of concentrated hydrochloric acid and was then cooled to 0° C. A solution of 3.9 g of sodium nitrite in 15 mL of H2O was added dropwise over 30 min. The reaction was stirred at 0° C. for an additional 1 h. The cold diazonating mixture was added to a solution of 13.8 g of potassium ethyl xanthate in 10 mL of H2O at 50˜60° C. The reaction was heated to 65° C. for 2 h and monitored by TLC until complete. The mixture was cooled to 25° C. and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4), and concentrated. Purified by silica gel chromatography (0-10% ethyl acetate/hexane) to afford methyl 2-chloro-4-(ethoxycarbonothioylthio)benzoate. A solution of 2.6 g of sodium hydroxide in 20 mL of H2O was added to 5.9 g of methyl 2-chloro-4-(ethoxycarbonothioylthio)benzoate in 40 mL of EtOH The reaction mixture was heated to 70° C. for 1 h. Upon completion, the mixture was cooled to 25° C., and then acidified to pH 3 by the addition of 10 N HCl. The solid was filtered and washed with H2O to give 2-chloro-4-mercaptobenzonic acid. 3.8 g of 2-chloro-4-mercaptobenzonic acid in 40 mL of 5% sulfuric acid-methanol was refluxed under nitrogen atmosphere for 3 h. After concentration of the reaction mixture, 10 mL of H2O was added and the resulting mixture was made alkaline with sodium hydrogen carbonate, and extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated to yield methyl 2-chloro-4-mercaptobenzoate. 80 mg of isobutylene oxide was reacted with methyl 2-chloro-4-mercaptobenzoate via Procedure S to afford methyl 2-chloro-4-(2-hydroxy-2-methylpropylthio)benzoate. 190 mg of methyl 2-chloro-4-(2-hydroxy-2-methylpropylthio)benzoate was hydrolyzed via Procedure M to give 2-chloro-4-(2-hydroxy-2-methylpropylthio)benzoic acid. 160 mg of 2-chloro-4-(2-hydroxy-2-methylpropylthio)benzoic acid was reacted via procedure R to give 2-chloro-4-(2-hydroxy-2-methylpropylsulfonyl)benzoic acid. 60 mg of 4-chloro-3-(pyridine-2-yl)aniline was coupled to 2-chloro-4-(2-hydroxy-2-methylpropylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxy-2-methylpropylsulfonyl)benzamide. MS (Q1) 479.1 (M)+.

reactant | methyl 4-amino-2-chlorobenzoate | 8 g | NC1=CC(=C(C(=O)OC)C=C1)Cl | C8H8ClNO2
reactant | hydrochloric acid | 8 mL | Cl | ClH
reactant | sodium nitrite | 3.9 g | N(=O)[O-].[Na+]
reactant | potassium ethyl xanthate | 13.8 g | O(C(=S)[S-])CC.[K+]
solvent | MeOH | 16 mL | CO | CH4O
solvent | H2O | 15 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 8 mL | O | H2O
product | methyl 2-chloro-4-(ethoxycarbonothioylthio)benzoate | ClC1=C(C(=O)OC)C=CC(=C1)SC(=S)OCC | C11H11ClO3S2
